US07148226B2
1-(4-{2-[5-(6-Chloro-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-2-cyclopentyl-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-2-fluoro-phenyl) -cyclopentanecarbonitrile
The title compound was prepared analogously to Example A(97) where 6-Chloro-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde was substituted in place of 2-ethyl-4-methyl-1H-imidazole-5-carbaldehyde and 1-{4-[2-(2-Cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-cyclopentanecarbonitrile (Example A(189) (was substituted in place of 2-{4-[2-(2-cyclopentyl-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl)ethyl]-2-fluorophenyl}-2-methylpropanenitrile. 1H NMR (400 MHz, CDCl3) δ: 1.41–1.98 (m, 17 H), 2.30–2.68 (m, 6 H), 3.62 (d, J=16 Hz, 1 H), 3.71 (d, J=16 Hz, 1 H), 6.99–7.03 (m, 2 H), 7.21–7.25 (m, 1 H), 8.74 (s, 1 H), 9.45 (s, 1 H), 10.8 (s, 1 H). Anal. Calcd. For C30H31ClFN5O3: C, 63.88; H, 5.54; N, 12.42. Found: C, 63.73; H, 5.71; N, 12.17. MS (ESI): 564 (M+H)+.

reactant | 6-Chloro-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | ClC=1C=NC=2N(C1)N=C(N2)C=O | C6H3ClN4O
reactant | 2-ethyl-4-methyl-1H-imidazole-5-carbaldehyde | C(C)C=1NC(=C(N1)C)C=O | C7H10N2O
reactant | 1-{4-[2-(2-Cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-cyclopentanecarbonitrile | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C=C1)C1(CCCC1)C#N)F | C24H28FNO3
reactant | 2-{4-[2-(2-cyclopentyl-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl)ethyl]-2-fluorophenyl}-2-methylpropanenitrile | C1(CCCC1)C1(OC(C=C(C1)O)=O)CCC1=CC(=C(C=C1)C(C#N)(C)C)F | C22H26FNO3
product | 1-(4-{2-[5-(6-Chloro-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-2-cyclopentyl-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-2-fluoro-phenyl) -cyclopentanecarbonitrile | ClC=1C=NC=2N(C1)N=C(N2)CC2=C(CC(OC2=O)(C2CCCC2)CCC2=CC(=C(C=C2)C2(CCCC2)C#N)F)O | C30H31ClFN5O3
